US04446028
Isopropenyl Phosphonic Acid/Hydroxypropylacrylate/Methyl Acrylate Terpolymer (15:5:3 molar ratio)
Aqueous isopropenyl phosphonic acid (71 g, 54%, 0.3 mole), hydroxypropylacrylate (13 g, 0.1 mole) and methyl acrylate (5 g, 0.06 mole) were mixed with 121.6 g water containing 6 g of ammonium pursulfate. After sparging with nitrogen for 1/2 hour, the mixture was heated to reflux for 11/2 hours. An additional 6 g of initiator was added followed by an equivalent period of reflux. The final product had a pH of 0.65. The 31PMR showed significant polymeric absorptions at -32.4 and -24.3 ppm.

reactant | isopropenyl phosphonic acid | 0.3 mole, 71 g | C(=C)(C)P(O)(O)=O | C3H7O3P
reactant | hydroxypropylacrylate | 0.1 mole, 13 g | OCCCOC(C=C)=O | C6H10O3
reactant | methyl acrylate | 0.06 mole, 5 g | C(C=C)(=O)OC | C4H6O2
reactant | ammonium | [NH4+]
solvent | water | 121.6 g | O | H2O
product | Isopropenyl Phosphonic Acid Hydroxypropylacrylate Methyl Acrylate | C(=C)(C)P(O)(O)=O.OCCCOC(C=C)=O.C(C=C)(=O)OC | InChI=1S/C6H10O3.C4H6O2.C3H7O3P/c1-2-6(8)9-5-3-4-7;1-3-4(5)6-2;1-3(2)7(4,5)6/h2,7H,1,3-5H2;3H,1H2,2H3;1H2,2H3,(H2,4,5,6)
